US09340507B2
1-Cyclobutyl-6-methyl-4-oxo-5-(3-trifluoromethyl-phenyl)-1,4-dihydro-pyridine-3-carboxylic acid (5-methyl-[1,3,4]oxadiazol-2-ylmethyl)-amide
To a solution of 5-bromo-1-cyclobutyl-6-methyl-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid (5-methyl-[1,3,4]oxadiazol-2-ylmethyl)-amide (preparation 24, 44 mg, 0.115 mmol), 3-(trifluoromethyl)phenyl-boronic acid (26 mg, 0.137 mmol), 1,1′-[bis(diphenylphosphino)ferrocene]dichloropalladium(II) (13 mg, 0.018 mmol) in acetonitrile (0.5 mL) is added 2 M aqueous K2CO3 solution (0.10 mL, 0.20 mmol). After stirring for 18 h at 75° C., the reaction mixture is filtered and purified by preparative reversed-phase HPLC (XBridge, gradient of methanol in water, 0.3% NH4OH, 60° C.). Yield: 40 mg (78% of theory); ESI mass spectrum: [M+H]+=447; Retention time HPLC: 1.09 min (Z003_001).

reactant | 5-bromo-1-cyclobutyl-6-methyl-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid (5-methyl-[1,3,4]oxadiazol-2-ylmethyl)-amide | 0.115 mmol, 44 mg | CC1=NN=C(O1)CNC(=O)C1=CN(C(=C(C1=O)Br)C)C1CCC1 | C15H17BrN4O3
reactant | 3-(trifluoromethyl)phenyl-boronic acid | 0.137 mmol, 26 mg | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | K2CO3 | 0.20 mmol, 2 M, 0.10 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
product | 1-Cyclobutyl-6-methyl-4-oxo-5-(3-trifluoromethyl-phenyl)-1,4-dihydro-pyridine-3-carboxylic acid (5-methyl-[1,3,4]oxadiazol-2-ylmethyl)-amide | CC1=NN=C(O1)CNC(=O)C1=CN(C(=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)C)C1CCC1 | C22H21F3N4O3
